US09227976B2
Step 1: N-(1-methyl-3-phenyl-4-((trimethylsilyl)ethynyl)-1H-pyrazol-5-yl)acetamide
Nitrogen was bubbled through a mixture of N-(4-iodo-1-methyl-3-phenyl-1H-pyrazol-5-yl)acetamide (5 g, 15 mmol) in DMF (15 mL) and triethylamine (35 mL) for 15 min. Copper iodide (0.56 g, 3.0 mmol), bis(triphenylphosphine)palladium(II) dichloride (0.53 g, 0.75 mmol) and ethynyltrimethylsilane (3.0 g, 30 mmol) were added and the reaction mixture was stirred in a sealed tube at 90° C. under nitrogen for 3 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (phase separation cartridge) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, isohexane/ethyl acetate 5:1 to 10:3) yielding the title compound as a solid (2.3 g).

reactant | N-(4-iodo-1-methyl-3-phenyl-1H-pyrazol-5-yl)acetamide | 15 mmol, 5 g | IC=1C(=NN(C1NC(C)=O)C)C1=CC=CC=C1 | C12H12IN3O
reactant | ethynyltrimethylsilane | 30 mmol, 3.0 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | triethylamine | 35 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | Copper iodide | 3.0 mmol, 0.56 g | [Cu](I)I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.75 mmol, 0.53 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(1-methyl-3-phenyl-4-((trimethylsilyl)ethynyl)-1H-pyrazol-5-yl)acetamide | 2.3 g | CN1N=C(C(=C1NC(C)=O)C#C[Si](C)(C)C)C1=CC=CC=C1 | C17H21N3OSi
